US05679623
Example H13: 2,3-Dihydro-3-ethylcarbonylmethyl-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole (compound no. 4.14 in table 4).
0.72 g of sodium hydride are added to a suspension of 4.1 g of 2,3-dihydro-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole in 80 ml of N,N-dimethylformamide. The mixture is heated to 50°, treated with a solution of 3.78 g of 1-bromo-2-oxo-butane in 20 ml of N,N-dimethylformamide, and stirred for 30 minutes. The N,N-dimethylformamide is then removed on a rotary evaporator. In a mixer, the residue is mixed intimately with water. The crystals are filtered off, yielding the title compound melting at 183°-184°.

reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | 2,3-dihydro-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole | 4.1 g | CC=1NC(N(C1)N=CC=1C=NC=CC1)=O | C10H10N4O
reactant | 1-bromo-2-oxo-butane | 3.78 g | BrCC(CC)=O | C4H7BrO
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-3-ethylcarbonylmethyl-4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole | C(C)C(=O)CN1C(N(C=C1C)N=CC=1C=NC=CC1)=O | C14H16N4O2
